US05728686
b) Diethyl [4-(7-benzyl-3-ethylxanthin-1-yl)butyl]phosphonate
The title substance was prepared from 0.04 mol of 7-benzyl-3-ethyl-xanthine and 0.048 mol of diethyl 4-chlorobutanephosphonate analogously to Example 23.

reactant | 7-benzyl-3-ethyl-xanthine | 0.04 mol | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)CC | C14H14N4O2
reactant | diethyl 4-chlorobutanephosphonate | 0.048 mol | ClCCCCP(OCC)(=O)OCC | C8H18ClO3P
product | Diethyl [4-(7-benzyl-3-ethylxanthin-1-yl)butyl]phosphonate | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)CCCCP(OCC)(OCC)=O)=O)CC | C22H31N4O5P
